US05264572
A liquid mixture of 50 g (0.42 mol) of phenyl isocyanate and 6.43 ml (0.084 mol) of isopropanol was stirred at room temperature for 20 minutes and thereafter an unreacted raw material was distilled away under a reduced pressure to obtain 16.1% of isopropyl N-phenylcarbamate.

reactant | phenyl isocyanate | 0.42 mol, 50 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | isopropanol | 0.084 mol, 6.43 ml | C(C)(C)O | C3H8O
product | isopropyl N-phenylcarbamate | 16.1% | C1(=CC=CC=C1)NC(OC(C)C)=O | C10H13NO2
